*BZG05C7V5 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*7.5V 3W Si Zener pkg:DO214 1,2
.SUBCKT BZG05C7V5 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  6.992
.MODEL DF D (IS=15.1N RS=14M N=1.7 CJO=318P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=57F RS=0.226 N=0.71)
.ENDS